US04873236
A mixture of 236.5 ml (about 1.1 mol) of a 37% aqueous sodium hydrogen sulphite solution and 110 ml (about 1.1 mol) of a 40% formalin solution was heated to 60° C. for 30 minutes. It was allowed to cool to 30° C., a solution of 170.3 g (1.0 mol) of 2-[(diethylamino)methyl]piperidine in 70 ml of water was added dropwise thereto, whereupon the mixture spontaneously heated up to 40° C., and was then stirred for a further 2 hours without any external heating. The solution of 53.9 g (1.1 mol) of sodium cyanide in 172 ml of water was then added and the resulting mixture was stirred for 2 hours at ambient temperature. The upper organic layer was taken up in 500 ml of cyclohexane and the aqueous phase was extracted four times, each time with 125 ml of cyclohexane. The combined extracts were dried over sodium sulphate, concentrated by evaporation and distilled in vacuo. The desired 2-[2-[(diethylamino)methyl]-piperidin-1-yl]acetonitrile was obtained as a colourless oil, B.p.19 mm Hg 155°-156° C. in a yield of 172.0 g (82% of theory).

reactant | sodium hydrogen sulphite | S(=O)(O)[O-].[Na+]
reactant | formalin | C=O | CH2O
reactant | 2-[(diethylamino)methyl]piperidine | 1.0 mol, 170.3 g | C(C)N(CC)CC1NCCCC1 | C10H22N2
reactant | sodium cyanide | 1.1 mol, 53.9 g | [C-]#N.[Na+]
reactant | cyclohexane | 500 ml | C1CCCCC1 | C6H12
solvent | water | 70 ml | O | H2O
solvent | water | 172 ml | O | H2O
product | 2-[2-[(diethylamino)methyl]-piperidin-1-yl]acetonitrile | yield of 99% | C(C)N(CC)CC1N(CCCC1)CC#N | C12H23N3
